US05550276
Synthesis of didodecyl 2-(t-butylthio)-1-hydroxy-1-methylethanephosphonate.
23.0 g (55 mmol) of didodecyl phosphite are initially introduced into a mixture of 20 ml of tert-butyl methyl ether and 5 ml of dimethyl sulfoxide. 1.0 g of 1,8-diazabicyclo[5.4.0]undec-5-ene (DBU) are added, and 8.04 g (55 mmol) of (t-butylthio)acetone are then added dropwise at 30° C. The reaction mixture is heated for 5 hours at 60° C., cooled, diluted with 150 ml of toluene and washed with 100 ml of water. The organic phase is dried over sodium sulfate, and the solvent and remainders of the educts are distilled off in vacuo (finally at 0.5 mbar and 55° C. bath temperature).

reactant | didodecyl phosphite | 55 mmol, 23.0 g | P(OCCCCCCCCCCCC)(OCCCCCCCCCCCC)[O-]
reactant | tert-butyl methyl ether | 20 ml | COC(C)(C)C | C5H12O
reactant | 1,8-diazabicyclo[5.4.0]undec-5-ene | 1.0 g | N12CCCC=CC2NCCC1 | C9H16N2
reactant | (t-butylthio)acetone | 55 mmol, 8.04 g | C(C)(C)(C)SCC(C)=O | C7H14OS
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | didodecyl 2-(t-butylthio)-1-hydroxy-1-methylethanephosphonate | C(C)(C)(C)SCC(P(OCCCCCCCCCCCC)(=O)OCCCCCCCCCCCC)(C)O | C31H65O4PS
